US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (100 mg, 0.385 mmol), 2-(trifluoromethyl)benzylamine (0.31 mL, 0.424 mmol), Pd2(dba)3 (35 mg, 0.0385 mmol), rac-BINAP (81 mg, 0.120 mmol) and NaOt-Bu (92 mg, 0.963 mmol) in DMA (6 mL) was heated at 80° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(2-trifluoromethyl-benzylamino)-2H-phthalazin-1-one (7 mg) as a white solid, 1H (400 MHz, CDCl3) δ: 4.63 (s, 2H), 6.84 (d, 1H), 6.97 (m, 1H), 7.35 (m, 1H), 7.43 (d, 1H), 7.47 (t, 2H), 8.09 (d, 1H), 10.15 (s, 1H) ppm. m/z (M+1) 353.97.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.385 mmol, 100 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-(trifluoromethyl)benzylamine | 0.424 mmol, 0.31 mL | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
reactant | rac-BINAP | 0.120 mmol, 81 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 0.963 mmol, 92 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0385 mmol, 35 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2-trifluoromethyl-benzylamino)-2H-phthalazin-1-one | 7 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)C(F)(F)F)=O | C16H11ClF3N3O
